US05719104
Step A: Preparation of 2-(5-bezyloxy-4-chloro-2-fluorophenyl)-5,8-dihydro-1H-[1,2,4]triazolo[1,2-α]pyridazine-1,3(2H)-dione
To a solution of 4.8 g of 4-chloro-2-fluoro-5-(phenylmethoxy)benzenamine (19.1 mmol) in 30 mL of toluene was added 11.5 mL of a 2.0M solution of trimethylaluminum (23.0 mmol) in toluene at room temperature. The mixture was stirred at the same temperature for 10 min. Then, 5.22 g of diethyl 1,2,3,6-tetrahydro-, 1,2-pyridazinedicarboxylate (22.9 mmol) was added at room temperature. The mixture was warmed under reflux overnight. The mixture was then cooled to room temperature and concentrated under reduced pressure. The crude product was purified by flash chromatography over silica gel, eluting with a 1:1 v:v mixture of ethyl acetate and n-hexane to give 6.20 g of the title product of Step A as a yellow solid melting at 165°-166° C. 1H NMR (CDCl3, 300 MHz) δ 4.2 (s, 4H), 5.1 (s, 2H), 6.0 (s, 2H), 7.0 (d, 1H), 7.4 (m, 6H).

reactant | 4-chloro-2-fluoro-5-(phenylmethoxy)benzenamine | 19.1 mmol, 4.8 g | ClC1=CC(=C(C=C1OCC1=CC=CC=C1)N)F | C13H11ClFNO
reactant | trimethylaluminum | 23.0 mmol | C[Al](C)C
reactant | 1,2-pyridazinedicarboxylate | 22.9 mmol | N1(N(C=CC=C1)C(=O)[O-])C(=O)[O-]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bezyloxy-4-chloro-2-fluorophenyl)-5,8-dihydro-1H-[1,2,4]triazolo[1,2-α]pyridazine-1,3(2H)-dione | 6.20 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)N1C(N2N(CC=CC2)C1=O)=O)F)Cl | C19H15ClFN3O3
